US04753940
1.7. 1,3-Dimethyl-5-[4-(6-methoxypyridazin-3-yloxy)phenylcarbamoyl]barbituric acid
The equimolar amount of sodium methylate is added at room temperature to 1.0 g (0.0025 mole) of 1,3-dimethyl-5-[4-(6-chloropyridazin-3-yloxy)phenylcarbamoyl]barbituric acid in 20 ml of methanol. The mixture is heated under reflux for 5 hours, then cooled, diluted with water and filtered. The filtrate is washed with water and dried.

reactant | sodium methylate | C[O-].[Na+]
reactant | 1,3-dimethyl-5-[4-(6-chloropyridazin-3-yloxy)phenylcarbamoyl]barbituric acid | 0.0025 mole | CN1C(=O)N(C(=O)C(C1=O)C(NC1=CC=C(C=C1)OC=1N=NC(=CC1)Cl)=O)C | C17H14ClN5O5
solvent | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | 1,3-Dimethyl-5-[4-(6-methoxypyridazin-3-yloxy)phenylcarbamoyl]barbituric acid | CN1C(=O)N(C(=O)C(C1=O)C(NC1=CC=C(C=C1)OC=1N=NC(=CC1)OC)=O)C | C18H17N5O6
